US09328096B2
Racemic-N-(1-(1H-1,2,3-triazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide
N-((1H-1,2,3-triazol-4-yl)methylene)-2-methylpropane-2-sulfinamide (Preparation 64, 2 g, 10 mmol) was dissolved in THF (80 mL) under nitrogen and cooled to −70° C. A solution of methylmagnesium bromide in diethyl ether (3.5M, 7.5 mL, 22.5 mmol) was added dropwise over a period of 15 minutes, keeping the reaction temperature below −60° C. The reaction was stirred with cooling for a further 40 minutes then the cooling bath was removed and the mixture was stirred at room temperature for 18 hours. The reaction was quenched by the addition of saturated aqueous sodium chloride solution (0.5 mL) followed by 2M (aq) HCl (12 mL). The THF was removed in vacuo and the residue acidifed to pH=4 with 2M (aq) HCl. The solution was extracted with EtOAc (110 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 40-100% EtOAc in heptanes to afford the title compound as a 4:1 mixture of diastereomers (1.09 g, 50%).

reactant | N-((1H-1,2,3-triazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 10 mmol, 2 g | N1N=NC(=C1)C=NS(=O)C(C)(C)C | C7H12N4OS
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | 22.5 mmol, 3.5M, 7.5 mL | C(C)OCC | C4H10O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | Racemic-N-(1-(1H-1,2,3-triazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | N1N=NC(=C1)C(C)NS(=O)C(C)(C)C | C8H16N4OS
